US04860573
Preparation of N-(3-triethoxysilylpropyl)-p-nitrobenzamide
p-nitrobenzoic acid (10 g; 60 mmol) was added to 15 g thionylchloride. This mixture was heated during 2 h under reflux. Subsequently the thionylchloride was removed at reduced pressure. To the remainder γ-aminopropyltriethoxysilane (13,3 g; 60 mmol) was added, dissolved in 50 ml diethylether with 10 g triethylamine. After 2 h agitation at room temperature, the mixture was filtered. The filtrate was evaporated at reduced pressure. The remainder was washed in water, filtered, and dried at reduced pressure over KOH. Yield: 9,5 g (43%). Melting point 99° . . . 105° C.

reactant | p-nitrobenzoic acid | 60 mmol, 10 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | thionylchloride | 15 g | S(=O)(Cl)Cl | Cl2OS
reactant | γ-aminopropyltriethoxysilane | 60 mmol, 13,3 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
solvent | diethylether | 50 ml | C(C)OCC | C4H10O
product | N-(3-triethoxysilylpropyl)-p-nitrobenzamide | C(C)O[Si](CCCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)(OCC)OCC | C16H26N2O6Si
